US05192770
(S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-1-methyl-5-methoxy-α-oxo-3-indoleacetamide chloride (750 ml; 2.2 mmol) in 30 ml of methylene chloride was stirred and cooled to -70° C. A 1M solution of boron tribromide in methlene chloride (8.0 ml; 8.0 mmol) was added via a syringe. The solution was allowed to warm to ambient temperature and then stirred continuely for 4 days. The reaction mixture was then stirred for 1 hour with ice-cold water containing an excess of potassium carbonate. The layers were separated and the phenolic product was extracted from the methylene chloride layer into 5% aqueous sodium hydroxide. The aqueous layer was stirred and sodium bicarbonate was added until saturated. The product that precipitated was extracted into methylene chloride. The methylene chloride solution was dried over potassium carbonate, filtered and concentrated to leave 500 ml (1.5 mmol) of (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-1-methyl-5-hydroxy-α-oxo-3-indoleacetamide chloride, m.p. 282°-284° C., [α ]D25 -7.8° (H2O).

reactant | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-1-methyl-5-methoxy-α-oxo-3-indoleacetamide chloride | 2.2 mmol, 750 ml | [Cl-].N12C[C@H](C(CC1)CC2)NC(C(C2=CN(C1=CC=C(C=C21)OC)C)=O)=O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methlene chloride | 8.0 mmol, 8.0 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-1-methyl-5-hydroxy-α-oxo-3-indoleacetamide chloride | 1.5 mmol, 500 ml | [Cl-].N12C[C@H](C(CC1)CC2)NC(C(C2=CN(C1=CC=C(C=C21)O)C)=O)=O | InChI=1S/C18H21N3O3.ClH/c1-20-9-14(13-8-12(22)2-3-16(13)20)17(23)18(24)19-15-10-21-6-4-11(15)5-7-21;/h2-3,8-9,11,15,22H,4-7,10H2,1H3,(H,19,24);1H/p-1/t15-;/m1./s1
